US06660742B2
2-(5-Amino-4-benzyloxy-2-nitro)phenylethanol was heated at 25-100° C., preferably refluxing, with dimethyl acetylenedicarboxylate in methanol to give dimethyl 2-[2-benzyloxy-5-(2-hydroxyethyl)-4-nitroanilino]malate in 96% yield. Subsequent treatment of dimethyl 2-[2-benzyloxy-5-(2-hydroxyethyl)-4-nitroanilino]malate at 0-50° C., preferably at room temperature, with carbon tetrachloride in methylene chloride and triphenylphosphine provided dimethyl 2-[2-benzyloxy-5-(2-chloroethyl)-4-nitroanilino]malate in 85% yield. Next, dimethyl 2-[2-benzyloxy-5-(2-chloroethyl)-4-nitroanilino]malate was treated with Palladium (II) acetate in N,N-dimethylacetamide at 40-120° C., preferably at 70° C., to give dimethyl 7-benzyloxy-4-(2-chloroethyl)-5-nitroindole-2,3-dicarboxylate in 23% yield. Treatment of dimethyl 7-benzyloxy-4-(2-chloroethyl)-5-nitroindole-2,3-dicarboxylate with 10% palladium-on-carbon in THF at an atmospheric pressure of hydrogen and at 0-35° C., preferably at room temperature, gave an amine intermediate which was directly coupled at 0-50° C., preferably at room temperature, with 5,6,7-trimethoxyindole-2-carboxylic acid and 5-(benzofuran-2-carboxamido)indole-2-carboxylic acid in the presence of EDCI in DMF at room temperature for three days to give the target achiral seco-duocarmycin analogue dimethyl 4-(2-chloroethyl)-7-hydroxy-5-(5,6,7-trimethoxyindole-2-carboxamido)indole-2,3-dicarboxylate and dimethyl 4-(2-chloroethyl)-7-hydroxy-5-[5-(benzofuran-2-carboxamido)indole-2-carboxamido]indole-2,3-dicarboxylate in 20 and 16% yield, respectively.

reactant | dimethyl 2-[2-benzyloxy-5-(2-chloroethyl)-4-nitroanilino]malate | C(C1=CC=CC=C1)OC1=C(NC(C(=O)OC)(O)CC(=O)OC)C=C(C(=C1)[N+](=O)[O-])CCCl | C21H23ClN2O8
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
catalyst | Palladium (II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | dimethyl 7-benzyloxy-4-(2-chloroethyl)-5-nitroindole-2,3-dicarboxylate | 23% yield | C(C1=CC=CC=C1)OC=1C=C(C(=C2C(=C(NC12)C(=O)OC)C(=O)OC)CCCl)[N+](=O)[O-] | C21H19ClN2O7
